US07560558B2
Compound 279: [3-(6,7-Dimethoxy-quinolin-4-yloxy)-quinolin-2-yl]-phenyl-methanone
(3-Hydroxy-quinolin-2-yl)-phenyl-methanone (27 mg), 4-chloro-6,7-dimethoxyquinoline (120 mg), and 4-dimethylaminopyridine (147 mg) were suspended in o-dichlorobenzene (5 ml), and the suspension was stirred at 150° C. for 2 hr. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and was dried over anhydrous sodium sulfate, the solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (20 mg, yield 42%).

reactant | (3-Hydroxy-quinolin-2-yl)-phenyl-methanone | 27 mg | OC=1C(=NC2=CC=CC=C2C1)C(=O)C1=CC=CC=C1 | C16H11NO2
reactant | 4-chloro-6,7-dimethoxyquinoline | 120 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 147 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | [3-(6,7-Dimethoxy-quinolin-4-yloxy)-quinolin-2-yl]-phenyl-methanone | 20 mg, yield 42% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC2=CC=CC=C2C1)C(=O)C1=CC=CC=C1 | C27H20N2O4
